US09281482B2
(1) Synthesis of 9-(3-iodophenyl)-6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole
6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole (1.76 g, 4.19 mmol), 1,3-diiodobenzene (2.76 g, 8.37 mmol), CuI (319 mg, 1.67 mmol), K3PO4 (1.78 g, 8.37 mmol), trans-1,2-dicyclohexanediamine (0.2 mL, 1.67 mmol) were put in a 250 mL two-neck flask and dissolved in 1,4-dioxane. The solution was refluxed and stirred at 120° C. for 12 hours. After completion of the reaction, the solution was extracted with methylenechloride and H2O and was distilled under reduced pressure to remove the solvent. The resultant was columned with a solution of hexane and methylenechloride (1:5). The solution was re-crystallized in a solution of methylene chloride and petroleum ether such that the white solid compound was obtained, (1.66 g, yield: 63%).

reactant | 6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole | 4.19 mmol, 1.76 g | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C=C2C3=C(NC2=CC1)N=CC=C3 | C31H20N2
reactant | 1,3-diiodobenzene | 8.37 mmol, 2.76 g | IC1=CC(=CC=C1)I | C6H4I2
reactant | K3PO4 | 8.37 mmol, 1.78 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | CuI | 1.67 mmol, 319 mg | [Cu]I
product | 9-(3-iodophenyl)-6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole | yield: 63% | IC=1C=C(C=CC1)N1C2=C(C3=CC(=CC=C13)C=1C3=CC=CC=C3C(=C3C=CC=CC13)C1=CC=CC=C1)C=CC=N2 | C37H23IN2
